US08703768B2
Step 3: 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid methylamide
A solution of 5-tert-butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid (0.66 g, 2.7 mmol) in DMF (10 ml) was treated with TBTU (1.16 g, 3.5 mmol), N,N-diisopropyl ethyl amine (2.29 ml, 13.5 mmol) and methylamine (1.75 ml, 2M THF solution) and stirred at ambient temperature for 5 h. The reaction mixture was partitioned between potassium hydrogen sulfate (30 ml, 10% aqueous solution) and ethyl acetate (60 ml) and extracted. The organic layer was washed with water and brine, and the aqueous phases were back-extracted with ethyl acetate. The combined organic phases were dried and the solvent was evaporated. The residue was suspended in dichloromethane, sucked off, and the filtrate was evaporated. The product was obtained after purification of the crude material by silica gel chromatography using a heptane/ethyl acetate gradient as colorless solid (0.23 g, 33%).

reactant | 5-tert-butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid | 2.7 mmol, 0.66 g | C(C)(C)(C)OC(=O)NC1=C(N=NS1)C(=O)O | C8H11N3O4S
reactant | TBTU | 3.5 mmol, 1.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl ethyl amine | 13.5 mmol, 2.29 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylamine | 2M, 1.75 ml | CN | CH5N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid methylamide | CNC(=O)C=1N=NSC1NC(=O)OC(C)(C)C | C9H14N4O3S
